US04057647
4 ml. of formic acid are added over 20 minutes to a solution of 2.3 g. of 4-(2-propneyl)-2',4'-difluorobiphenyl, obtained by eliminating water from 4-(2-hydroxypropyl)-2',4'-difluorobiphenyl with polyphosphoric acid, in a mixture of 12 ml. of sulfuric acid and 8 ml. of trifluoroacetic acid. After 20 minutes more, the mixture is poured into water to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°.

reactant | 4-(2-hydroxypropyl)-2',4'-difluorobiphenyl | OC(CC1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)C | C15H14F2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
